resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.983559
R2 0 n2 1.005544
R3 0 n4 1.017444
R4 n1 n3 1.017213
R5 n1 n5 6.588834
R6 n2 n3 0.99912
R7 n2 n6 0.995792
R8 n3 n7 1.008997
R9 n4 n5 0.996291
R10 n4 n6 0.988366
R11 n5 n7 1.001356
R12 n6 n7 1.00107
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
